US04022833
In a manner similar to that of Example 1, condensation of 1-tetradecene oxide (91.8 g.) and hexamethylenediamine (25 g.) and recrystallization of the resulting product (71 g., m.p. 118°-121° C.) from ethanol gave N,N'-(1,6-hexylene)-bis[2-hydroxytetradecylamine] (I: R= CH3 (CH2)11, R' = H, X== (CH2)6, Z= H) (55.3 g., m.p. 122°-126° C.).

reactant | 1-tetradecene oxide | 91.8 g | C1C(CCCCCCCCCCCC)O1 | C14H28O
reactant | hexamethylenediamine | 25 g | NCCCCCCN | C6H16N2
solvent | ethanol | C(C)O | C2H6O
product | N,N'-(1,6-hexylene)-bis[2-hydroxytetradecylamine] | C(CCCCCNCC(CCCCCCCCCCCC)O)NCC(CCCCCCCCCCCC)O | C34H72N2O2
